US07820658B2
4-Methyl-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzaldehyde
A mixture of 3-Bromo-4-methyl-benzaldehyde (3.105 g; 15.6 mmol), bis (pinacolato) diboron (4.29 g; 16.86 mmol) and Potassium acetate (4.59 g; 46.8 mmol) in dimethylformamide (60 mL) was degassed by evacuation—nitrogen purge (3 cycles), followed by bubbling nitrogen gas through the stirred reaction mixture for 5 minutes. Palladium acetate (0.120 g; 0.536 mmol) was added and reaction mixture was heated to 85 degrees C. (oil-bath temperature) for 2.5 hours. Reaction mixture was allowed to cool to room temperature and DMF removed in vacuo. The residue was partitioned between ethyl acetate (150 mL) and water (150 mL) and the mixture was filtered through a pad of celite to remove black Pd solids. Filter cake was washed with ethyl acetate (2×50 mL) and combined filtrate phases were separated and the organic phase was washed with water (2×150 mL) then saturated sodium chloride solution (150 mL). Organic phase was dried over Na2SO4 and filtered, filtrate solvents removed in vacuo to afford a yellow oil which was purified by flash chromatography on silica gel (50 g IST Flash; eluting 0 to 10% ethyl acetate in hexane) to afford product as a colourless solid

reactant | 3-Bromo-4-methyl-benzaldehyde | 15.6 mmol, 3.105 g | BrC=1C=C(C=O)C=CC1C | C8H7BrO
reactant | bis (pinacolato) diboron | 16.86 mmol, 4.29 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | Potassium acetate | 46.8 mmol, 4.59 g | C(C)(=O)[O-].[K+]
solvent | dimethylformamide | 60 mL | CN(C=O)C | C3H7NO
catalyst | Palladium acetate | 0.536 mmol, 0.120 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-Methyl-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzaldehyde | CC1=C(C=C(C=O)C=C1)B1OC(C(O1)(C)C)(C)C | C14H19BO3
